US03978069
13 g diphenyl-α-chloroacetic acid methyl ester (0.05 mole) are heated to the boil for 20 hours with 12.1 g 2-methyl-imidazole in 100 ml acetonitrile. The acetonitrile is distilled off in a vacuum. 200 ml of water are added to the residue, which is then taken up in 200 ml methylene chloride. The methylene chloride is extracted twice with, in each case, 150 ml of water, dried and distilled off in a vacuum. The residue is recrystallized from a little ethyl acetate. There is so obtained the diphenyl-2-methyl-imidazolyl-acetic acid methyl ester of the melting point 136°C.

reactant | diphenyl-α-chloroacetic acid methyl ester | 0.05 mole, 13 g | COC(C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13ClO2
reactant | 2-methyl-imidazole | 12.1 g | CC=1NC=CN1 | C4H6N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl-2-methyl-imidazolyl-acetic acid methyl ester | COC(C(C=1N=C(NC1)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O2
